US09416111B2
To a solution of methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylate (60 mg, 0.13 mmol) in THF (2 mL) and water (0.5 mL) was added lithium hydroxide monohydrate (16 mg, 0.39 mmol) and then the reaction mixture was stirred at 60° C. for 8 hours. After cooling to room temperature, water was added to the mixture and the pH was adjusted to pH 2 by the addition of aqueous 1M HCl. The mixture was extracted with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylic acid. MS ESI calc'd for C24H26F2N5O2 [M+H]+ 454. found 454. 1H NMR: (400 MHz, DMSO-d6) δ 10.06 (s, 1H), 8.95 (s, 2H), 8.72 (s, 1H), 8.00 (s, 1H), 7.59 (s, 1H), 7.50 (s, 1H), 7.22 (s, 1H), 7.08 (s, 1H), 6.88 (t, J=54.4 Hz, 1H), 3.14-3.13 (m, 1H), 2.79-2.77 (m, 2H), 2.35 (s, 3H), 2.07-2.04 (m, 1H), 1.87-1.84 (m, 2H), 1.66 (s, 1H), 1.30-1.21 (m, 3H), 1.07-1.03 (m, 2H).

reactant | methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylate | 0.13 mmol, 60 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C[C@@H]1CC[C@H](CC1)C(=O)OC)F | C25H27F2N5O2
reactant | lithium hydroxide monohydrate | 0.39 mmol, 16 mg | O.[OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylic acid | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C[C@@H]1CC[C@H](CC1)C(=O)O)F | C24H25F2N5O2
